US05932601
A mixture of 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde (1.79 g), sodium cyanide (0.3 g), acetic anhydride (0.62 g), benzyltributylammonium chloride (0.79 g), water (12 ml) and dichloromethane (35 ml) was stirred for 15 hours at room temperature. The organic layer was separated, which was washed with water and dried (MgSO4), followed by distilling off the solvent. The resulting oily product was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:3, v/v), was obtained 2-acetoxy-4-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyronitrile (2.0 g, 94%),

reactant | 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde | 1.79 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCC=O | C21H21NO4
reactant | sodium cyanide | 0.3 g | [C-]#N.[Na+]
reactant | acetic anhydride | 0.62 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 12 ml | O | H2O
catalyst | benzyltributylammonium chloride | 0.79 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 2-acetoxy-4-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyronitrile | 2.0 g, 94% | C(C)(=O)OC(C#N)CCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C24H24N2O5
